US05519015
tert-Butyl-2-amino-3-tert-butoxy-5-thiophenecarboxylate
A solution of tert-butyl-2-allyloxycarbonylamino-3-tertbutoxy-5-thiophenecarboxylate (1.64 g, 4.62 mmol) in anhydrous THF (50 ml) was treated with PPh3 (240 mg, 0.923 mmol), dimedone (1.3 g, 9.23 mmol) and Pd(PPh3)4 (300 mg, 0.277 mmol). After 30 minutes, the solvent was evaporated, and the residue purified by flash silica-gel chromatography, eluting with petroleum ether: ether (80:20), to give the title compound (975 mg, 98%).

reactant | tert-butyl-2-allyloxycarbonylamino-3-tertbutoxy-5-thiophenecarboxylate | 4.62 mmol, 1.64 g | C(C)(C)(C)OC(=O)C1=CC(=C(S1)NC(=O)OCC=C)OC(C)(C)C | C17H25NO5S
reactant | PPh3 | 0.923 mmol, 240 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | dimedone | 9.23 mmol, 1.3 g | CC1(CC(=O)CC(=O)C1)C | C8H12O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.277 mmol, 300 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl-2-amino-3-tert-butoxy-5-thiophenecarboxylate | 975 mg, 98% | C(C)(C)(C)OC(=O)C1=CC(=C(S1)N)OC(C)(C)C | C13H21NO3S
